US04115634
Bis-cyanoethyl glycine was prepared in conventional manner by reacting two mols acrylonitrile with one mol sodium salt of glycine in essentially the same manner used in preparing the catalyst of Example 2, except that the sodium salt was neutralized at the end of the reaction.

reactant | acrylonitrile | two mols | C(C=C)#N | C3H3N
reactant | sodium | one mol | [Na] | Na
reactant | glycine | NCC(=O)O | C2H5NO2
product | Bis-cyanoethyl glycine | C(#N)CCN(CC(=O)O)CCC#N | C8H11N3O2
